US04200758
Using the procedure of Example 1, (2,4-dioxo-5-methyl-1-n-propyl-3-imidazolidinyl)methanol is reacted with the acid chloride of 2-(4-chlorophenylamino)-3-methylbutanoic acid to give (2,4-dioxo-5-methyl-1-n-propyl-3-imidazolidinyl)methyl 2-(4-chlorophenylamino)-3-methylbutanoate (A'; R is carbonyl, R' is ethylidene, R1 =R4 =R5 is hydrogen, R2 is p-chlorophenyl, R3 is isopropyl, R6 is n-propyl).

reactant | (2,4-dioxo-5-methyl-1-n-propyl-3-imidazolidinyl)methanol | O=C1N(C(C(N1CO)=O)C)CCC | C8H14N2O3
reactant | 2-(4-chlorophenylamino)-3-methylbutanoic acid | ClC1=CC=C(C=C1)NC(C(=O)O)C(C)C | C11H14ClNO2
product | (2,4-dioxo-5-methyl-1-n-propyl-3-imidazolidinyl)methyl 2-(4-chlorophenylamino)-3-methylbutanoate | ClC1=CC=C(C=C1)NC(C(=O)OCN1C(N(C(C1=O)C)CCC)=O)C(C)C | C19H26ClN3O4
